US08461390B2
A nitrogen- or argon-inertized reactor was initially charged with 83.2 g (3.42 mol) of magnesium turnings and then 1646.2 g of dry, unstabilized tetrahydrofuran were added. 30 g (0.14 mol) of 3,4,5-trifluorobromobenzene were added dropwise at 25° C. with stirring and the startup of the Grignard reaction was awaited. The startup of the Grignard reaction was perceptible by a spontaneous temperature increase to approx. 32° C. Subsequently, 571.9 g (2.71 mol) of further 3,4,5-trifluorobromobenzene were metered in at 25-35° C. within 5 h. To complete the reaction, the mixture was stirred at 25-30° C. for a further 2 h. A 2nd reactor was initially charged with a solution of 328.0 g (3.16 mol) of trimethyl borate and 452 g of dry, unstabilized tetrahydrofuran, which were precooled to −5° C. Thereafter, the Grignard solution was metered in from the 1st reactor within 2.5 h. The excess magnesium remained in the 1st reactor. After the metered addition had ended, the mixture was stirred at 20-25° C. for another 2 h. For hydrolysis, 1326.1 g (2.76 mol) of 7.6% hydrochloric acid were then metered in at 25° C., after which the mixture was stirred at 25° C. for another 1 h. The mixture was heated to 50° C. and the phases were separated. Thereafter, the organic phase was re-extracted with 603.9 g of water at 50° C. and the washing water phase was removed again. Subsequently, the organic phase was concentrated by distilling off a tetrahydrofuran/water mixture. This afforded 1032.6 (82%) of a 40% solution of 3,4,5-trifluorophenylboronic acid in tetrahydrofuran, which was used directly for the subsequent reactions.

reactant | magnesium | 3.42 mol, 83.2 g | [Mg] | Mg
reactant | 3,4,5-trifluorobromobenzene | 0.14 mol, 30 g | FC=1C=C(C=C(C1F)F)Br | C6H2BrF3
reactant | 3,4,5-trifluorobromobenzene | 2.71 mol, 571.9 g | FC=1C=C(C=C(C1F)F)Br | C6H2BrF3
reactant | trimethyl borate | 3.16 mol, 328.0 g | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2.76 mol, 1326.1 g | Cl | ClH
product | 3,4,5-trifluorophenylboronic acid | FC=1C=C(C=C(C1F)F)B(O)O | C6H4BF3O2
